US04616086
Ethyl 4-{2-[1-(3-phenylpropyl)-piperazin-4-yl]-ethyl}-benzoate
A mixture of 40 ml. HMPT, 23.6 g. (90 mmole) ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate and 8.96 g. (45 mmole) 3-bromopropylbenzene is maintained at 110° C. for 22 hours, whereby, immediately after mixing together, the temperature increases to about 55° C. and the formation of a pale precipitate is observed. At 110° C., a clear, red-brown solution is present, from which, upon cooling, a product crystallises out. It is poured into a little water, extracted with diethyl ether, the ether phase is washed with water, dried with anhydrous sodium sulphate and evaporated. The crude product is dissolved in diethyl ether and converted into the dihydrochloride by means of hydrogen chloride-containing diethyl ether and recrystallised from ethanol containing 2 drops of concentrated hydrochloric acid; m.p. 273° C. (decomp.). Yield 76% of theory.

reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate | 90 mmole | N1(CCNCC1)CCC1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | 3-bromopropylbenzene | 45 mmole | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | HMPT | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Ethyl 4-{2-[1-(3-phenylpropyl)-piperazin-4-yl]-ethyl}-benzoate | Yield 76% | C1(=CC=CC=C1)CCCN1CCN(CC1)CCC1=CC=C(C(=O)OCC)C=C1 | C24H32N2O2
